US05093432
The reaction of 500 g dimethoxymethane (6.6 moles) with 100 g 1.3.dioxolane (1.4 moles), in the presence of an acidic catalyst, gave a mixture of unreacted dimethoxymethane, low molecular weight oligomers of 1,3.dioxolane and a product having the formula: CH3OCH2OCH2CH2OCH2OCH3 which was isolated in 50% yield. Fluorination of 80 g of the product in a 4 liter reactor containing 1.5 liters (CF2Cl)2CFOCF2OCF(CF2Cl)2 and 400 g sodium fluoride in an 18 hour reaction at 10° C., gave a 60% yield of perfluoro-2,4,7,9-tetraoxadecane (b.p. 79.0° C.).

reactant | dimethoxymethane | COCOC | C3H8O2
reactant | dioxolane | O1COCC1 | C3H6O2
product | CH3OCH2OCH2CH2OCH2OCH3 | 50% yield | COCOCCOCOC | C6H14O4
